US09382244B2
A mixture of 23 g of 4-(1-benzenesulfonyl-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-2,7-naphthyridin-1-ylamine and 26 g of caesium carbonate in 400 ml of THF/trifluoroethanol (1:1 vol) is heated under reflux for 20 h. The mixture is cooled, the solvent is removed, and the product is purified by means of flash chromatography over 220 g of silica with a methanol gradient in ethyl acetate with 150 ml/min with UV detection at 254 nm, giving 12.2 g of 4-(2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-2,7-naphthyridin-1-ylamine, M˜275.31, M+H found 276.2;

reactant | 4-(1-benzenesulfonyl-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-2,7-naphthyridin-1-ylamine | 23 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=C(C=2C1=NC=CC2)C2=CN=C(C1=CN=CC=C21)N)C | C22H17N5O2S
reactant | caesium carbonate | 26 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF trifluoroethanol | 400 ml | C1CCOC1.C(C(F)(F)F)O
product | 4-(2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-2,7-naphthyridin-1-ylamine | 12.2 g | CC1=C(C=2C(=NC=CC2)N1)C1=CN=C(C2=CN=CC=C12)N | C16H13N5
